US07605158B2
Chloroacetyl chloride (95.5 ml) is dissolved in dichloromethane (500 ml), and thereto is added dropwise a suspension of 2-amino-5-chloropyridine (128.6 g) and triethylamine (169 ml) in dichloromethane (1000 ml) under ice-cooling. The reaction solution is warmed to room temperature and stirred for 0.5 hours. The reaction solution is concentrated under reduced pressure, and thereto is poured ice-water. The reaction mixture is extracted with ethyl acetate. The organic layer is washed with saturated brine, dried over sodium sulfate and treated with activated charcoal. Insoluble materials are removed by filtration and the filtrate is concentrated under reduced pressure. The resulting residue is suspended in diisopropyl ether. The precipitates are collected by filtration, washed with diisopropyl ether and dried to give 2-chloro-N-(5-chloropyridin-2-yl)acetamide (153.4 g).

reactant | Chloroacetyl chloride | 95.5 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-amino-5-chloropyridine | 128.6 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | triethylamine | 169 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 2-chloro-N-(5-chloropyridin-2-yl)acetamide | 153.4 g | ClCC(=O)NC1=NC=C(C=C1)Cl | C7H6Cl2N2O
